US09388189B2
(S)-2-(1-(5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (370 mg, 1.46 mmol) was treated with 5-bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (793 mg, 2.19 mmol), cesium fluoride (120 mg, 0.79 mmol), N,N-diisopropylethylamine (2.3 ml, 13.20 mol) and tert-butanol (10 ml) as a solvent according to Preparation 13. The residue was purified using SP1® Purification System (0% to 35%, hexane-ethyl acetate) to give 0.61 g (72% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-Aminoethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 1.46 mmol, 370 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C14H14N4O
reactant | 5-bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 2.19 mmol, 793 mg | BrC1=CN(C=2N=CN=C(C21)Cl)COCC[Si](C)(C)C | C12H17BrClN3OSi
reactant | cesium fluoride | 0.79 mmol, 120 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 13.20 mol, 2.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | (S)-2-(1-(5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.61 g, 72% yield | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C | C26H30BrN7O2Si
